US07723330B2
Step A: Preparation of methyl 1-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate:
LiH (10 mg, 1.3 mmol) was added to the solution of methyl 2-oxo-1,2-dihydropyridine-3-carboxylate (0.10 g, 0.65 mmol) in DMF (3 mL) at 0° C. After stirring for 30 minutes, iodomethane (0.08 mL, 1.30 mmol) was added to the reaction mixture at the temperature, and the reaction was warmed to room temperature. After stirring for 3 days, the reaction mixture was diluted with EtOAc, quenched with ice water, extracted with EtOAc, dried over MgSO4, and concentrated to give the desired product.

reactant | LiH | 1.3 mmol, 10 mg | [H-].[Li+]
reactant | methyl 2-oxo-1,2-dihydropyridine-3-carboxylate | 0.65 mmol, 0.10 g | O=C1NC=CC=C1C(=O)OC | C7H7NO3
reactant | iodomethane | 1.30 mmol, 0.08 mL | IC | CH3I
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 1-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate | CN1C(C(=CC=C1)C(=O)OC)=O | C8H9NO3
